US06951955B2
To a solution of 2-methyl-2-phenylpropanenitrile (290 g, 2.00 mol) in hexane (2000 mL) at 0° C. under N2 is added diisobutylaluminum hydride (DIBAL-H) (2600 mL, 1M in hexane) over a period of 80 minutes. The reaction mixture is stirred at 6-14° C. for 15 minutes, then allowed to warm to room temperature and stirred for 4 hours. The reaction mixture is cooled to 0° C. and H2O (50 mL) is added slowly during 1 hour. Aqueous HCl (900 mL, 15%) is then added slowly to maintain a gentle reflux. The reaction mixture is stirred for 17 hours and the organic phase is separated. The aqueous layer is extracted with ethyl acetate (400 mL) and the combined organic layers are washed with water (300 mL), brine (300 mL) and dried over Na2SO4. The organic extracts are filtered and concentrated to give 2-methyl-2-phenylpropanal as an oil (275 g, 92.8% yield, 98.2% by HPLC area).

reactant | 2-methyl-2-phenylpropanenitrile | 2.00 mol, 290 g | CC(C#N)(C)C1=CC=CC=C1 | C10H11N
reactant | diisobutylaluminum hydride | 1M, 2600 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | H2O | 50 mL | O | H2O
reactant | HCl | 900 mL | Cl | ClH
solvent | hexane | 2000 mL | CCCCCC | C6H14
product | 2-methyl-2-phenylpropanal | 92.8% yield | CC(C=O)(C)C1=CC=CC=C1 | C10H12O
